US08105689B2
Diethyl 4-(acrylamido)benzylphosphonate
To a solution of diethyl 4-(amino)benzylphosphonate (2.02 g; 8.3 mmoles) and triethylamine (1.02 g; 9 mmoles) in toluene (7 ml) cooled to 0-5° C., is added dropwise a solution of acryloyl chloride (0.91 g of 95% purity; 10 mmoles) in toluene (2 ml) for 30 min. Thereafter, more toluene (5 ml) is poured into the flask and the mixture is stirred at room temperature for two more hours. The reaction is terminated by addition of water (10 ml). The organic phase is extracted with diethyl ether, dried over MgSO4 and stripped of solvent under vacuum to afford a pale-yellow solid (2.22 g; yield 90%).

reactant | diethyl 4-(amino)benzylphosphonate | 8.3 mmoles, 2.02 g | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
reactant | triethylamine | 9 mmoles, 1.02 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.91 g | C(C=C)(=O)Cl | C3H3ClO
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl 4-(acrylamido)benzylphosphonate | yield 90% | C(C=C)(=O)NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C14H20NO4P
